US06927296B2
(R)-5-(2-Phenylsulphonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole (200 kg dry equivalent) and acetone (1186.5 kg) were charged to a dry, glass lined vessel. De-ionised water (300 kg), further acetone (237 kg), methanesulphonic acid (55 kg) and a slurry of palladium on carbon (22.4 kg dry equivalent) in de-ionised water (200 kg) were added and the mixture was hydrogenated under an atmosphere of hydrogen gas. The reaction slurry was filtered to remove the catalyst. De-ionised water (1300 kg) and 48% aqueous sodium hydroxide solution (60 kg) were added to precipitate the product, which was isolated by filtration and washed with a mix of de-ionised water (210 kg), acetone (83 kg) and further de-ionised water (710 kg) to yield 3-{[1-methylpyrrolidin-2(R)-yl]methyl}-5-(2-phenylsulphonylethyl)-1H-indole (220 kg wet, 157.65 kg when dry, 78.41%).

reactant | (R)-5-(2-Phenylsulphonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 200 kg | C1(=CC=CC=C1)S(=O)(=O)C=CC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C22H24N2O2S
reactant | acetone | 1186.5 kg | CC(=O)C | C3H6O
reactant | acetone | 237 kg | CC(=O)C | C3H6O
reactant | methanesulphonic acid | 55 kg | CS(=O)(=O)O | CH4O3S
catalyst | palladium on carbon | 22.4 kg | [Pd] | Pd
solvent | water | 200 kg | O | H2O
solvent | water | 300 kg | O | H2O
product | 3-{[1-methylpyrrolidin-2(R)-yl]methyl}-5-(2-phenylsulphonylethyl)-1H-indole | 220 kg, 78.41% | CN1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)CCS(=O)(=O)C1=CC=CC=C1 | C22H26N2O2S
